US05719157
A solution of hydrogen chloride in ethanol (27%, 1.3 g) was added dropwise to a solution of ethyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-[(1-methylimidazol-2-yl)thiomethyl]-quinoline-3-carboxylate (4.9 g) in ethanol (100 ml) at room temperature. About two thirds of the solvent was evaporated under reduced pressure, ethyl ether was added to the residue, and the resulting crystals were collected by filtration. The crystals were recrystallized from isopropanol to give ethyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-[(1-methylimidazol-2-yl)thiomethyl]quinoline-3-carboxylate hydrochloride monohydrate (3.0 g, 55%).

reactant | hydrogen chloride | Cl | ClH
reactant | ethyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-[(1-methylimidazol-2-yl)thiomethyl]-quinoline-3-carboxylate | 4.9 g | COC=1C=C2C(=C(C(=NC2=CC1OC)CSC=1N(C=CN1)C)C(=O)OCC)C1=CC(=C(C=C1)OC)OC | C27H29N3O6S
solvent | ethanol | 1.3 g | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-[(1-methylimidazol-2-yl)thiomethyl]quinoline-3-carboxylate hydrochloride monohydrate | 3.0 g, 55% | O.Cl.COC=1C=C2C(=C(C(=NC2=CC1OC)CSC=1N(C=CN1)C)C(=O)OCC)C1=CC(=C(C=C1)OC)OC | InChI=1S/C27H29N3O6S.ClH.H2O/c1-7-36-26(31)25-19(15-37-27-28-10-11-30(27)2)29-18-14-23(35-6)22(34-5)13-17(18)24(25)16-8-9-20(32-3)21(12-16)33-4;;/h8-14H,7,15H2,1-6H3;1H;1H2
